US09447049B2
4-(Aminomethyl)benzonitrile (25.09 g, 0.149 mol) and L-cysteine (18.1 g, 0.149 mol) were suspended in 500 mL MeOH and pH 6.4 buffer solutions (1:1) and stirred for 3 days at RT. Triethylamine (30 mL) was added to the mixture and Boc2O (68 g, 0.31 mol) was added to this mixture and stirred for 2 h. The solvents were removed and filtered to yield white solid (R)-2-(4-((tert-butoxycarbonylamino)methyl)phenyl)-4,5-dihydrothiazole-4-carboxylic acid (38.4 g, 76.8%). Compound 67a was obtained from this acid following the same method as used for 38d. Yield: 84.4%. 1H NMR (500 MHz, CDCl3) δ 7.75-7.77 (d, 2H, J=7.5 Hz), 7.27-7.26 (d, 2H, J=7.5 Hz), 7.23 (s, 1H), 5.62 (br, 1H), 4.87 (br, 1H), 4.30 (br, 2H), 3.86 (s, 3H), 3.78 (t, J=10.0 Hz, 1H), 3.48-3.4 (m, 1H), 3.25 (s, 3H), 1.42 (s, 9H). MS (ESI) m/z 402.1 (M+Na)+, 378.0 (M−H)−.

reactant | 4-(Aminomethyl)benzonitrile | 0.149 mol, 25.09 g | NCC1=CC=C(C#N)C=C1 | C8H8N2
reactant | L-cysteine | 0.149 mol, 18.1 g | N[C@@H](CS)C(=O)O | C3H7NO2S
reactant | Triethylamine | 30 mL | C(C)N(CC)CC | C6H15N
reactant | Boc2O | 0.31 mol, 68 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | MeOH | 500 mL | CO | CH4O
product | (R)-2-(4-((tert-butoxycarbonylamino)methyl)phenyl)-4,5-dihydrothiazole-4-carboxylic acid | 38.4 g, 76.8% | C(C)(C)(C)OC(=O)NCC1=CC=C(C=C1)C=1SC[C@H](N1)C(=O)O | C16H20N2O4S
